US05932601
In substantially the same manner as in Reference Example 35, (E)-3-[3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]-2-propen-1-ol was subjected to oxidation reaction with activated manganese dioxide to yield 3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamaldehyde, which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.93-94° C.

reactant | (E)-3-[3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]-2-propen-1-ol | FC=1C=C(C=CC1OCCN(C1=NC=CC=C1)C)/C=C/CO | C17H19FN2O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamaldehyde | FC=1C=C(C=CC=O)C=CC1OCCN(C1=NC=CC=C1)C | C17H17FN2O2
